US06740770B2
Synthesis of N-methacryloyl-4-cyano-3-trifluoromethylaniline
Using 4-cyano-3-trifluoromethylaniline and methacryloyl chloride as starting materials, the title compound is prepared according to the method described in J. Med. Chem., 1988, 954-959.

reactant | 4-cyano-3-trifluoromethylaniline | C(#N)C1=C(C=C(N)C=C1)C(F)(F)F | C8H5F3N2
reactant | methacryloyl chloride | C(C(=C)C)(=O)Cl | C4H5ClO
product | N-methacryloyl-4-cyano-3-trifluoromethylaniline | C(C(=C)C)(=O)NC1=CC(=C(C=C1)C#N)C(F)(F)F | C12H9F3N2O
